US06306887B1
A. 3-[2-(1-{[4-(3-o-Tolyl-ureido)-phenyl]-acetyl}-pyrrolidin-2-yl)-thiazol-5-yl]-propionic acid
A solution was prepared of 3-[2-(1-{[4-(3-o-Tolyl-ureido)-phenyl]-acetyl}-pyrrolidin-2-yl)-thiazol-5-yl]-propionic acid methyl ester (0.33 g, 0.65 mmol) in methanol (4 mL), tetrahydrofuran (8 mL) and aqueous lithium hydroxide (2M, 4 mL). The solution was stirred for 4 h and partitioned between aqueous hydrochloric acid (1N, 30 mL) and ethyl acetate (100 mL). The aqueous portion was extracted with ethyl acetate (50 mL). The combined organic portions were extracted with brine (20 mL) and the solvent removed in vacuo to give the title compound (0.3 g, 94%). 1HNMR (400 MHz, CD3OD): δ7.60 (d, J=7.3 Hz, 1H), 7.46 (s, 0.3H), 7.39 (d, J=8.5 Hz, 2.7H), 7.29 (d, J=8.5 Hz, 0.6), 7.18 (m, 3H), 6.99 (m, 1.4H), 5.40 (d, J=7.0 Hz, 0.3H), 5.34 (d, J=6.0 Hz, 0.7H) 3.4-3.8 (m, 4H), 3.05 (m, 2H), 2.60 (m, 2H), 2.27 (s, 3H), 1.9-2.2 (m, 4H). MS: Calc'd for C25H26N4O4S: 492.18. Found: (M+1) 492.9.

reactant | 3-[2-(1-{[4-(3-o-Tolyl-ureido)-phenyl]-acetyl}-pyrrolidin-2-yl)-thiazol-5-yl]-propionic acid methyl ester | 0.65 mmol, 0.33 g | COC(CCC1=CN=C(S1)C1N(CCC1)C(CC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)=O | C27H30N4O4S
solvent | methanol | 4 mL | CO | CH4O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | lithium hydroxide | 2M, 4 mL | [OH-].[Li+]
product | 3-[2-(1-{[4-(3-o-Tolyl-ureido)-phenyl]-acetyl}-pyrrolidin-2-yl)-thiazol-5-yl]-propionic acid | 0.3 g, 94% | C1(=C(C=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)N1C(CCC1)C=1SC(=CN1)CCC(=O)O)=O)C | C26H28N4O4S
